US04816467
2-Cyano-3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanoic acid, ethyl ester (1.2 g) is reacted with aniline (1.1 g) in xylene (100 ml) at the reflux temperature for 48 hours. After cooling the precipitate is filtered and washed with xylene, then crystallized from dichloromethane/methanol to give 0.7 g of 2-cyano-3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide, m.p. 280°-282° C.

reactant | 2-Cyano-3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanoic acid, ethyl ester | 1.2 g | C(#N)C(C(=O)OCC)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(OC2)C=CC=C1 | C22H17N3O4
reactant | aniline | 1.1 g | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-cyano-3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide | 0.7 g | C(#N)C(C(=O)NC1=CC=CC=C1)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(OC2)C=CC=C1 | C26H18N4O3
